US08034953B2
Step 2. N-benzyl-4-(benzylamino)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide
A solution of 4-benzyl-3-[4-(benzylamino)-1,2,5-oxadiazol-3-yl]-1,2,4-oxadiazol-5(4H)-one (12 mg, 34 μmol) in ethanol (1 mL) was treated with 2 M sodium hydroxide in water (300 μL) and stirred at 25° C. for 30 min. The reaction mixture was quenched with acetic acid and purified by preparative HPLC to give the desired product (10 mg, 90%) as a white solid. LCMS for C17H18N5O2 (M+H)+: m/z=324.2.

reactant | 4-benzyl-3-[4-(benzylamino)-1,2,5-oxadiazol-3-yl]-1,2,4-oxadiazol-5(4H)-one | 34 μmol, 12 mg | C(C1=CC=CC=C1)N1C(=NOC1=O)C1=NON=C1NCC1=CC=CC=C1 | C18H15N5O3
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 300 μL | O | H2O
product | N-benzyl-4-(benzylamino)-N′-hydroxy-1,2,5-oxadiazole-3-carboximidamide | 10 mg, 90% | C(C1=CC=CC=C1)NC(=NO)C1=NON=C1NCC1=CC=CC=C1 | C17H17N5O2
